US07951810B2
Step b: N-({(3aR,4R,6R,6aR)-2,2-dimethyl-6-[6-(phenylethyl)-9H-purin-9-yl]tetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl)sulfamide
To a solution of N-{[(3aR,4R,6R,6aR)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl}sulfamide (0.14 g, 0.28 mmol) in DMF was added phenylacetylene (0.115 g, 1.13 mmol), CuI (10.6 mg, 0.056 mmol), DIPEA (98 μL, 0.56 mmol) and Pd(PPh3)2Cl2 (10 mg, 0.028 mmol) The solution was stirred for 1 h at r.t. and concentrated. The residue was taken up in DCM, washed with saturated aq EDTA.Na2 (3×20 mL), dried (Na2SO4) concentrated and purified by flash chromatography (20 to 60% EtOAc/DCM) to give the title compound (0.08 g, 60%).

reactant | N-{[(3aR,4R,6R,6aR)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl}sulfamide | 0.28 mmol, 0.14 g | IC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CNS(=O)(=O)N | C13H17IN6O5S
reactant | phenylacetylene | 1.13 mmol, 0.115 g | C1(=CC=CC=C1)C#C | C8H6
reactant | DIPEA | 0.56 mmol, 98 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | CuI | 0.056 mmol, 10.6 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.028 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-({(3aR,4R,6R,6aR)-2,2-dimethyl-6-[6-(phenylethyl)-9H-purin-9-yl]tetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl)sulfamide | 0.08 g, 60% | CC1(O[C@H]2[C@@H](O1)[C@@H](O[C@@H]2CNS(=O)(=O)N)N2C1=NC=NC(=C1N=C2)CCC2=CC=CC=C2)C | C21H26N6O5S
